US07157464B2
Synthesis of 1-[4-(4-Fluoro-phenyl)-piperazin-1-yl]-2-[7-nitro-indazol-1-yl]-ethanone
2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone (0.834 g, 3.3 mmol) was taken in dry DMF (15 mL) and dry potassium carbonate (1.6 g, 11.6 mmol) was added to it and the reaction mixture stirred at room temperature for 1 h under nitrogen. 7-Nitro-1H-indazole (0.5 g, 2.9 mmol) in DMF (2 mL) was then added to the mixture through a syringe. The reaction was then heated at 70° C. for 14 h, cooled and then quenched with water and extracted with ethyl acetate. Drying of the organic layer with Na2SO4 followed by concentration afforded material that was purified on neutral alumina column (pet ether/ethyl acetate). The resulting solid was recrystallized from DCM/pet ether to obtain pure product as a pale yellow solid.

reactant | 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | 3.3 mmol, 0.834 g | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C12H14ClFN2O
reactant | potassium carbonate | 11.6 mmol, 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 7-Nitro-1H-indazole | 2.9 mmol, 0.5 g | [N+](=O)([O-])C=1C=CC=C2C=NNC12 | C7H5N3O2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-[4-(4-Fluoro-phenyl)-piperazin-1-yl]-2-[7-nitro-indazol-1-yl]-ethanone | FC1=CC=C(C=C1)N1CCN(CC1)C(CN1N=CC2=CC=CC(=C12)[N+](=O)[O-])=O | C19H18FN5O3
